US08304036B2
2.0 ml (11.8 mmol) of TMP are initially introduced at −15° C. in 15 ml of diethyl ether, and 7.0 ml (11.1 mmol, 15% soln. in hexane) of n-BuLi are metered in. After 25 min, a solution of 3.5 g (9.3 mmol) of 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene in 35 ml of diethyl ether is metered in, and the mixture is stirred at RT for 45 min. The batch is cooled to −70° C., and 3.0 ml (48.2 mmol) of methyl iodide are added. The mixture is warmed to RT and stirred for 3 h. Sat. ammonium chloride soln. and conc. ammonia soln. are added successively, and the mixture is briefly stirred vigorously. The organic phase is separated off, and the aqueous phase is extracted with MTBE. The combined organic phases are washed with 2 N hydrochloric acid and sat. sodium chloride soln. and dried using sodium sulfate. The solution is concentrated to dryness, and the residue is purified by column chromatography (SiO2, n-heptane:toluene=1:1). The further purification is carried out by digestion in ethanol and recrystallisation from n-heptane/toluene (2:1). 2-(2′,3′-Difluoro-4′-propoxybiphenyl-4-yl)-5-methylselenophene is obtained as a solid having an m.p. of 143° C.

reactant | n-BuLi | 11.1 mmol, 7.0 ml | [Li]CCCC
reactant | 2-(2′,3′-difluoro-4′-propoxybiphenyl-4-yl)selenophene | 9.3 mmol, 3.5 g | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C=1[Se]C=CC1 | C19H16F2OSe
reactant | methyl iodide | 48.2 mmol, 3.0 ml | CI | CH3I
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonia | N | H3N
solvent | diethyl ether | 15 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 35 ml | C(C)OCC | C4H10O
product | 2-(2′,3′-Difluoro-4′-propoxybiphenyl-4-yl)-5-methylselenophene | FC1=C(C=CC(=C1F)OCCC)C1=CC=C(C=C1)C=1[Se]C(=CC1)C | C20H18F2OSe
